US05136042
In a 200-ml three-neck flask, 15.0 g (0.08 mole) of 2-propyl-4-methylthiazole-5-carboxylic acid were suspended in 100 ml of xylene, followed by the addition of 0.05 g of N,N-dimethylformamide. Under heating and reflux, phosgene was blown at a flow rate of 1.5 l/hr for 3 hours (0.20 mole). After completion of the reaction, the reaction mixture was filtered and the filtrate was concentrated to obtain 16.2 g of 2-propyl-4 -methylthiazole-5-carboxylic acid chloride. Its purity and yield were 97.3% and 98.2%, respectively.

reactant | 2-propyl-4-methylthiazole-5-carboxylic acid | 0.08 mole, 15.0 g | C(CC)C=1SC(=C(N1)C)C(=O)O | C8H11NO2S
reactant | N,N-dimethylformamide | 0.05 g | CN(C=O)C | C3H7NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-propyl-4 -methylthiazole-5-carboxylic acid chloride | 16.2 g | C(CC)C=1SC(=C(N1)C)C(=O)Cl | C8H10ClNOS
